US07618978B2
2-(S)-[Bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-pyridin-2-yl-propan-1-(S)-ol
Dissolve 2-bromopyridine (0.485 mL, 5.07 mmol) in THF (30 mL) and cool to −78° C. Add n-butyllithium (2.0 mL, 2.5 M in hexanes). Slowly add 2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-propionaldehyde (1.37 g, 3.3 mmol) in THF (10 mL) and stir 2 h. Quench reaction with saturated aqueous ammonium chloride. Warm to room temperature. Wash organic layer twice with 5% aqueous citric acid, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify twice (silica gel chromatography, eluting with hexanes and ethyl acetate, and then dichloromethane and ethyl acetate) to give the title compound as a foam (0.636 g, 40%).

reactant | 2-bromopyridine | 5.07 mmol, 0.485 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | n-butyllithium | 2.5 M, 2.0 mL | C(CCC)[Li]
reactant | 2-(S)-[bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-propionaldehyde | 3.3 mmol, 1.37 g | CC1=C(CN([C@H](C=O)CC2=CC(=CC(=C2)F)F)CC2=C(C=CC=C2)C)C=CC=C1 | C25H25F2NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(S)-[Bis-(2-methylbenzyl)-amino]-3-(3,5-difluorophenyl)-1-pyridin-2-yl-propan-1-(S)-ol | 0.636 g, 40% | CC1=C(CN([C@H]([C@H](O)C2=NC=CC=C2)CC2=CC(=CC(=C2)F)F)CC2=C(C=CC=C2)C)C=CC=C1 | C30H30F2N2O
